US09034866B2
Synthesis of (±)-methyl 10-bromo-9-fluoro-3-(hydroxy(1-methyl-1H-pyrazol-5-yl)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxylate
Methyl 10-bromo-9-fluoro-3-(hydroxy(1-methyl-1H-pyrazol-5-yl)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxylate was prepared similarly according to the procedure in Example 9. Methyl 10-bromo-9-fluoro-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxylate was reacted with 1-methylpyrazole-5-carbaldehyde to afford 219 mg (33% yield) of the title compound.

reactant | Methyl 10-bromo-9-fluoro-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxylate | BrC=1C(=CC2=C(C=3N(CCO2)C=C(N3)C(=O)OC)C1)F | C13H10BrFN2O3
reactant | 1-methylpyrazole-5-carbaldehyde | CN1N=CC=C1C=O | C5H6N2O
product | (±)-methyl 10-bromo-9-fluoro-3-(hydroxy(1-methyl-1H-pyrazol-5-yl)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxylate | 219 mg, 33% yield | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)OC)C(C3=CC=NN3C)O)C1)F | C18H16BrFN4O4
